US07087599B2
A solution of (2SR,9aSR)-2-allyl-9a-butyl-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (170 mg, 0.48 mmol) in dioxane (9 mL) was diluted with water (3 mL) and treated with a single crystal of OSO4 followed by NaIO4 (125 mg, 0.58 mmol). The mixture was stirred at room temperature for 15 minutes, treated with more NaIO4 (132 mg, 0.62 mmol), and stirred an additional 30 minutes at room temperature. Workup provided a gum which was purified by PLC on two 0.1×20×20 cm silica gel GF plates, developing twice with 4:1 hexanes-EtOAc. The minor UV visible band provided (2RS,9aSR)-9a-butyl-2-(3-hydroxy-2-oxopropyl)-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (26 mg) as an oil. The major UV visible band afforded (2RS,9aSR)-9a-butyl-7-methoxymethoxy-4-methyl-2-(2-oxoethyl)-1,2,9,9a-tetrahydro-3H-fluoren-3-one (85 mg) as an oil.

reactant | (2SR,9aSR)-2-allyl-9a-butyl-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.48 mmol, 170 mg | C(C=C)C1CC2(CC3=CC(=CC=C3C2=C(C1=O)C)OCOC)CCCC | C23H30O3
reactant | dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
product | (2RS,9aSR)-9a-butyl-2-(3-hydroxy-2-oxopropyl)-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 26 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(C(C1)CC(CO)=O)=O)C)OCOC | C23H30O5
